US08802659B2
1-((6-(4-(trifluoromethyl)cyclohexyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylic acid
To a solution of methyl 1-((6-(4-(trifluoromethyl)cyclohexyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate (100 mg, 0.26 mmol) in EtOH (15 mL) was added aqueous NaOH (3 mL, 20%, 5.0 eq.) and refluxed for 1 h. Then the reaction was cooled to 0° C., the pH of the solution was adjusted to 6 using 1M HCl, concentrated and the residue was dissolved in DCM, washed with water, dried and concentrated to give the title compound as a slight yellow solid (50 mg, yield: 52%). ESI-MS (M+1)+: 408.2 HPLC: 94.97%. 1H NMR (400 MHz, CD3OD) δ: 7.77 (d, 1H), 7.69 (d, 1H), 7.64 (s, 1H), 7.33 (d, 1H), 7.31 (s, 1H), 7.16 (dd, 1H), 4.80-4.71 (m, 1H), 3.57 (s, 2H), 3.25 (t, 2H), 3.09 (t, 2H), 2.79-2.73 (m, 1H), 2.41 (br, 1H), 2.07 (d, 2H), 1.80-1.60 (m, 6H).

reactant | methyl 1-((6-(4-(trifluoromethyl)cyclohexyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate | 0.26 mmol, 100 mg | FC(C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)(F)F | C23H26F3NO3
reactant | NaOH | 3 mL, 5.0 eq. | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 15 mL | CCO | C2H6O
product | 1-((6-(4-(trifluoromethyl)cyclohexyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylic acid | 50 mg, yield: 52% | FC(C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)O)(F)F | C22H24F3NO3
